US04245097
A mixture of 16 g. of 4-(16-hydroxyhexadecylamino)benzoic acid and 150 g. of 30-32% hydrogen bromide in acetic acid is treated with 30 ml. of concentrated sulfuric acid, stirred under reflux for 8 hours, poured into ice-water, and filtered. The product is washed with water, dried and recrystallized from ether-petroleum ether to yield 4-(16-bromohexadecylamino)benzoic acid as a white, crystalline solid.

reactant | 4-(16-hydroxyhexadecylamino)benzoic acid | OCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C23H39NO3
reactant | hydrogen bromide | Br | BrH
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(16-bromohexadecylamino)benzoic acid | BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)O)C=C1 | C23H38BrNO2
